US04298741
Benzyl 6-azido-1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate (1 mmol) is dissolved in anhydrous acetone (5 ml) and treated with powdered, anhydrous potassium carbonate (2 mmol). The resulting suspension is treated with dimethyl sulfate (1.2 mmol) and stirred vigorously at room temperature for several hours. The mixture is diluted with ethylether and filtered. The filtrate is washed with water and brine, dried and evaporated under vacuum to give benzyl 6-azido-3-methoxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | Benzyl 6-azido-1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | 1 mmol | N(=[N+]=[N-])C1C2CC(C(N2C1=O)C(=O)OCC1=CC=CC=C1)=O | C14H12N4O4
reactant | potassium carbonate | 2 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 1.2 mmol | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | ethylether | C(C)OCC | C4H10O
product | benzyl 6-azido-3-methoxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | N(=[N+]=[N-])C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)OC | C15H14N4O4
